Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / clonidine
 
Attending: ___.
 
Chief Complaint:
Dizziness, chest pain, headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with a past medical history 
significant for long-standing anxiety requiring Clonazepam who 
presents with 3 days of progressively worsening lightheadedness, 
dizziness, and SOB. She denies any precipitating factors (in 
particular, psychological stressors) and reports that her 
current symptoms are not in line with her usual anxiety attacks. 
Her symptoms are exacerbated with positional changes, especially 
from sitting to standing. She endorses tinnitus and has been 
maintaining good PO intake.

She also reports 2 weeks of progressively worsening L-sided 
temporal headache that she rates at 7 out of 10 in severity 
(compared to usual generalized ___ pain) and is exacerbated by 
movement. She denies visual symptoms or jaw claudication. She 
also reports 2 weeks of progressively worsening L lateral chest 
wall tenderness. She denies trauma, and her symptoms are 
reproducible with palpation.

In the ED, her vitals were the following: T 98.6 BP 150/87 HR 
100 RR 18 SaO2 97% on RA. Her physical examination was benign; 
D-dimer was negative; and CTA Head (prelim) was negative for 
bleed. She received Clonazepam 2 MG and Percocet 1 TAB to good 
effect. At this time, her PCP requested that she be admitted to 
Medicine for ETT and further work-up.   

On the floor, she continued to complain of dizziness, headache, 
and chest wall tenderness, wishing to receive her anxiolytics.
 
Past Medical History:
Anxiety, PTSD
 
Social History:
___
Family History:
2 siblings: Brain aneurysms
Father: Passed away at age ___ from MI, depression
Mother: Passed away at age ___ from brain cancer
 
Physical Exam:
On Admission:  
VS: T 97.6 BP 153/105 P 91 RR 18 SaO2 98% on RA
General: Well-appearing, anxious, NAD
HEENT: NCAT, PERRL, MMM, oropharynx clear
Neck: Supple, no lymphadenopathy, no JVD
CV: RRR, no murmurs, rubs, or gallops, L lateral chest wall TTP
Lungs: Clear to auscultation bilaterally
Abdomen: Bowel sounds present, soft, non-tender, non-distended
Ext: WWP, 2+ distal pulses bilaterally, no edema
Neuro: A&Ox3, non-focal

On Discharge:
VS: Tm 98.3 Tc 97.7 BP 131/83 (118-135/80-90) HR 76 (76-97) RR 
18 SaO2 98% on RA I/O (24hrs) 960/900+BRP
General: Well-appearing, anxious, NAD
HEENT: NCAT, PERRL, MMM, oropharynx clear
Neck: Supple, no lymphadenopathy, no JVD
CV: RRR, no murmurs, rubs, or gallops, L lateral chest wall TTP
Lungs: Clear to auscultation bilaterally
Abdomen: Bowel sounds present, soft, non-tender, non-distended
Ext: WWP, 2+ distal pulses bilaterally, no edema
Neuro: A&Ox3, non-focal
 
Pertinent Results:
On Admission:
___ 04:08PM BLOOD WBC-13.9* RBC-5.50* Hgb-16.3* Hct-48.9* 
MCV-89 MCH-29.5 MCHC-33.3 RDW-12.7 Plt ___
___ 04:08PM BLOOD Neuts-65.7 ___ Monos-4.8 Eos-2.4 
Baso-1.3
___ 04:08PM BLOOD Plt ___
___ 04:08PM BLOOD ESR-24*
___ 04:08PM BLOOD Glucose-147* UreaN-14 Creat-0.9 Na-139 
K-4.5 Cl-102 HCO3-26 AnGap-16
___ 12:27AM BLOOD CK(CPK)-44
___ 12:27AM BLOOD CK-MB-1 cTropnT-<0.01
___ 04:08PM BLOOD cTropnT-<0.01
___ 06:38AM BLOOD Calcium-9.9 Phos-3.7 Mg-2.1
___ 04:08PM BLOOD D-Dimer-344

EKG: NSR with non-specific Q waves in lead III, no ST-T wave 
changes
CXR: No acute cardiopulmonary abnormality
CT Head: No intracranial hemorrhage. No acute intracranial 
pathology.
CTA Head: No significant abnormalities on CT of the head.  No 
significant abnormalities on CT angiography of the head.  No 
evidence of vascular occlusion, stenosis or an aneurysm greater 
than 3 mm in size.

On Discharge:
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-148* UreaN-22* Creat-0.7 Na-133 
K-4.3 Cl-95* HCO3-25 AnGap-17
___ 06:45AM BLOOD Calcium-10.2 Phos-4.0 Mg-2.0

URINE CULTURE (Final ___: 
GRAM POSITIVE BACTERIA.    10,000-100,000 ORGANISMS/ML. 
Alpha hemolytic colonies consistent with alpha streptococcus or 
Lactobacillus sp.
 
Brief Hospital Course:
#Lightheadedness, dizziness, and SOB: The patient's symptoms are 
likely related to her known anxiety. They are highly unlikely to 
represent PE given normal D-dimer. ___ evaluated her and felt 
that she was safe to return home with ___.

#Headache: Her headache is likely benign in etiology. It is 
unlikely to represent temporal arteritis given lack of 
associated symptoms and slightly elevated ESR. It is highly 
unlikely to be aneurysm given negative CTA. She was started on 
Tramadol 50 MG PO Q8H PRN to some effect and was discharged on 
this with standing Tylenol. Of note, Mirtapine and Tramadol 
moderately interact with the risk of developing serotonin 
syndrome. She received several doses of Tramadol with no issue. 
Prior to D/C, she was given information about this rare risk.

#Chest pain: Her chest wall tenderness is likely musculoskeletal 
in origin given reproducibility with palpation. It is highly 
unlikely to represent ACS given unchanged EKG and negative Trop 
x2. She was started on Lidocaine patch to good effect and was 
discharged on this. She refused to undergo a stress test, and 
this will need to be done as an outpatient.

#Leukocytosis: Per PCP, her leukocytosis is a chronic issue. On 
admission, her WBC was 13.9, and on discharge, 15.4. Throughout 
her hospitalization, she remained afebrile with unremarkable CXR 
and UA. This issue will need to be followed-up by her PCP.

#Anxiety: Her home Clonazepam and Mirtazipine were continued.

#DM: Per OMR, her most recent A1C was 7.3. She endorsed 
polydypsia and increased frequency. This issue will need to be 
followed-up by her PCP.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mirtazapine 45 mg PO HS 
2. ClonazePAM 2 mg PO Q6H 

 
Discharge Medications:
1. ClonazePAM 2 mg PO Q6H 
2. Mirtazapine 45 mg PO HS 
3. Acetaminophen 1000 mg PO Q8H 
Please do not exceed 3 grams per day. 
4. Lidocaine 5% Patch 1 PTCH TD DAILY 
5. TraMADOL (Ultram) 50 mg PO Q8H:PRN headache 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Dizziness
Chest pain
Headache

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ from ___ thru ___ with 
dizziness, chest pain, and headache.

For your dizziness, you were evaluated by Physical Therapy, who 
felt that you were safe to return home with ___. For your chest 
pain, you received a Lidocaine patch to good effect. For your 
headache, you were started on 2 pain medications.

It was a pleasure to take care of you, and we wish you all the 
best.
 
Followup Instructions:
___